US07541374B2
1.29 g of 4-bromo-3-i-propyl-1H-pyrazole-1-ylmethanol was dissolved to 20 ml of dichloromethane. 2 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for overnight. The reaction mixture was concentrated under reduced pressure to obtain 1.28 g of 4-bromo-3-i-propyl-1-(chloromethyl)-1H-pyrazole hydrochloride.

reactant | 4-bromo-3-i-propyl-1H-pyrazole-1-ylmethanol | 1.29 g | BrC=1C(=NN(C1)CO)C(C)C | C7H11BrN2O
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-bromo-3-i-propyl-1-(chloromethyl)-1H-pyrazole hydrochloride | 1.28 g | Cl.BrC=1C(=NN(C1)CCl)C(C)C | InChI=1S/C7H10BrClN2.ClH/c1-5(2)7-6(8)3-11(4-9)10-7;/h3,5H,4H2,1-2H3;1H
